US05753664
2-[4-(4-Chlorobenzoyl)benzylthio]-3-methylpteridin-4-one
To a solution of 3-methylpteridin-4-one-2-thione, (194 mg) in ethanol (5 ml) were added 1N-aqueous sodium hydroxide solution (1.2 ml) and 4-(4-chlorobenzoyl) benzyl bromide (310 mg) and the mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was purified by silica gel column chromatography (ethyl acetate) to provide the title compound as white powder (118 mg, 28%).

reactant | 3-methylpteridin-4-one-2-thione | 194 mg | CN1C(NC2=NC=CN=C2C1=O)=S | C7H6N4OS
reactant | sodium hydroxide | 1.2 ml | [OH-].[Na+]
reactant | 4-(4-chlorobenzoyl) benzyl bromide | 310 mg | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[4-(4-Chlorobenzoyl)benzylthio]-3-methylpteridin-4-one | 118 mg, 28% | ClC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=NC=CN=C4C(N3C)=O)C=C2)C=C1 | C21H15ClN4O2S
